US07618990B2
Methyl N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-3,3,3-trifluoroalaninate (1.08 g, 2.70 mmol), prepared in the previous step, was dissolved in 50 mL of tetrahydrofuran and cooled to 0° C. Lithium aluminum hydride (1M solution in tetrahydrofuran, 5.5 mL, 5.5 mmol) was added slowly and the mixture was stirred for 30 min. The reaction was then quenched by careful addition of 0.2 mL H2O, followed by 0.2 mL of 15% aqueous KOH, then an additional 0.6 mL of H2O and the mixture was stirred for 30 min. The reaction mixture was diluted with ethyl acetate and filtered through the Celite™ reagent. The filtrate was washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (15% acetone/hexane) provided 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-3,3,3-trifluoropropan-1-ol (0.67 g, 68%) as a white solid, mp 133-134° C.; MS (ESI) m/z 367. HRMS: calcd for C12H10BrF3N2OS+H, 366.97275; found (ESI, [M+H]+), 366.9712. Analytical HPLC: retention time 10.0 min, 210-370 nm the Xterra® RP18 column, 3.5μ, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | Methyl N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-3,3,3-trifluoroalaninate | 2.70 mmol, 1.08 g | BrC1=CC=C(C=C1)C=1N=C(SC1)N[C@@H](C(F)(F)F)C(=O)OC | C13H10BrF3N2O2S
reactant | Lithium aluminum hydride | 5.5 mmol, 1M, 5.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-3,3,3-trifluoropropan-1-ol | 0.67 g, 68% | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(CO)C(F)(F)F | C12H10BrF3N2OS
